US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (764 mg, 3.29 mmol), HOTT (1.33 g, 3.58 mmol), and DIPEA (1.65 mL, 9.45 mmol) in DMF (15 mL) is stirred at rt under N2 for 10 min. 2,3-Dimethyl-indol-1-ylamine (497 mg, 3.1 mmol) is added. The resulting mixture is stirred at 80° C. overnight. The mixture is cooled and portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 20% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (2,3-dimethyl-indol-1-yl)-amide (568 mg, 49%) as a solid. MS: 375 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 11.68 (s, 1H), 9.24 (s, 1H), 8.33 (d, 1H), 8.20-8.15 (m, 1H), 7.69-7.61 (m, 1H), 7.50-7.43 (m, 2H), 7.37 (d, 1H), 7.17-7.05 (m, 2H), 2.78 (s, 3H), 2.30 (s, 3H), 2.24 (s, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 3.29 mmol, 764 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HOTT | 3.58 mmol, 1.33 g | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.45 mmol, 1.65 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,3-Dimethyl-indol-1-ylamine | 3.1 mmol, 497 mg | CC=1N(C2=CC=CC=C2C1C)N | C10H12N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (2,3-dimethyl-indol-1-yl)-amide | 568 mg, 49% | CC=1N(C2=CC=CC=C2C1C)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C22H19FN4O
